2157-05-17 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Patient admitted overnight for fevers and rigors.  Started emperically
   on Vanc/cipro/ceftiaxone.
   -Remained tachycardic overnight.
   -Given fluids overnight.
   -Started on Flagyl in the morning.
   Allergies:
   Aspirin
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Toradol (Injection) (Ketorolac Tromethamine)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Indocin (Oral) (Indomethacin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Zomig (Oral) (Zolmitriptan)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2157-5-16**] 06:30 PM
   Ciprofloxacin - [**2157-5-16**] 08:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-5-17**] 12:31 AM
   Other medications:
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-17**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.5
C (99.5
   HR: 107 (98 - 117) bpm
   BP: 116/60(72) {93/49(59) - 120/65(78)} mmHg
   RR: 24 (21 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,810 mL
                                                                  1,550 mL
   PO:
                                                                    250 mL
                                                                    250 mL
   TF:
   IVF:
                                                                  1,560 mL
                                                                  1,300 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    585 mL
   Urine:
                                                                    600 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,210 mL
                                                                    965 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General: Awake, alert
   HEENT: MM dry.
   Neck: No elevated JVP, neck supple
   Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales
   Cardiac: tachycardic, regular, nl S1 S2, no murmurs, rubs or gallops
   appreciated
   Abdomen: Soft, diffusely non-tender to deep palpation.  Hypoactive BS.
   Foley draining pink/[**Location (un) 136**] urine.
   Extremities: No edema, 2+ radial, DP pulses b/l.
   Labs / Radiology
   350 K/uL
   8.6 g/dL
   138 mg/dL
   1.8 mg/dL
   17 mEq/L
   3.2 mEq/L
   31 mg/dL
   101 mEq/L
   131 mEq/L
   27.2 %
   29.9 K/uL
        [image002.jpg]
                             [**2157-5-17**]  04:14 AM
   WBC
   29.9
   Hct
   27.2
   Plt
   350
   Cr
   1.8
   Glucose
   138
   Other labs: PT / PTT / INR:14.6/26.1/1.3, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   69F with DM2, HTN, recent diverticulitis and nephrolithiasis presents
   with fevers, rigors and tachycardia after lithotripsy and ureteral
   stent placement.
   # Fever: High fever with rigors concerning for bacterial
   infection/bacteremia.  Given recent GU manipulation most likely source
   is urine, especially given positive UA.  CXR clear, no localizing
   pulmonary symptoms suggestive of pneumonia.  PE unlikely given acuity,
   degree of fever and lack of hypoxia.  Pt has history of recent
   antibiotic tx raising concern for c. diff although leukocytosis lower
   than previously and no diarrhea.  Also had treatment for diverticulitis
   2 months ago with associated microperforation, although non-tender on
   abd exam with no recent abd pain or change in stool.  Did have
   relatively recent knee tap, but without evidence for prior or ongoing
   infection in the joint.
   -blood cultures
   -urine cultures
   -Empiric antibiotics with vanc (given recent procedure), cipro/ctx for
   double GNR coverage for potential GU source
   -Tylenol PRN fevers
   -c. diff toxin
   -r/o flu
   -Low threshold for CT abd to eval for abscess if continues to spike.
   # Tachycardia: Sinus tach.  Pt most likely dry based on subjective
   thirst, procedurization, febrility and prolonged NPO status prior to
   procedure.
   -PO and IV hydration overnight
   -Check TSH
   -1gram tylenol prn fever
   -tx likely infection as above.
   # ARF: Creatinine has ranged 1.0-2.0 in past 3 months, baseline likely
   1-1.3.  Had ARF in setting of diverticulitis which fully resolved, had
   cr of 2.0 as outpatient for unclear reasons, was 1.6 prior to procedure
   and 1.9 currently.  Urine lytes with FeNa 2%, in setting of pt being on
   HCTZ yesterday and after hydration, so is less informative. Elevation
   likely pre-renal despite this.
   -Hold lisinopril and HCTZ acutely
   -Agressive IVF/PO hydration
   -Tx infection as above
   -consider repeat GU imaging if persists to ensure no new obstruction in
   setting of instrumentation, although unlikely given stent in place.
   # Nephrolithiasis: s/p lithotripsy/ureteral stent replacement
   -f/u urology recs
   -foley in place
   # HTN:
   -continue atenolol, hold HCTZ/ACEI as above
   # DM: Hold oral antihyperglycemics
   -diabetic diet
   -HISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2157-5-16**] 05:16 PM
   20 Gauge - [**2157-5-16**] 08:47 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2157-05-17 10:20:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Nephrolithiasis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2157-5-16**] 06:22 PM
 BLOOD CULTURED - At [**2157-5-16**] 08:47 PM
   -Cipro/Vanco given for coverage initially, however-->
   -CTX added and Flagyl added in the setting of persistent tachycardia
   and elevation of WBC count and fevers to allow broadest possible
   coverage
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Toradol (Injection) (Ketorolac Tromethamine)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Indocin (Oral) (Indomethacin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Zomig (Oral) (Zolmitriptan)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2157-5-16**] 06:30 PM
   Ciprofloxacin - [**2157-5-16**] 08:29 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-5-17**] 08:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2157-5-17**] 10:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 38.5
C (101.3
   HR: 107 (98 - 117) bpm
   BP: 113/62(73) {93/49(59) - 120/74(78)} mmHg
   RR: 30 (21 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  1,810 mL
                                                                  2,407 mL
   PO:
                                                                    250 mL
                                                                    730 mL
   TF:
   IVF:
                                                                  1,560 mL
                                                                  1,677 mL
   Blood products:
   Total out:
                                                                    600 mL
                                                                    840 mL
   Urine:
                                                                    600 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,210 mL
                                                                  1,567 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   350 K/uL
   138 mg/dL
   1.8 mg/dL
   17 mEq/L
   3.2 mEq/L
   31 mg/dL
   101 mEq/L
   131 mEq/L
   27.2 %
   29.9 K/uL
        [image002.jpg]
                             [**2157-5-17**]  04:14 AM
   WBC
   29.9
   Hct
   27.2
   Plt
   350
   Cr
   1.8
   Glucose
   138
   Other labs: PT / PTT / INR:14.6/26.1/1.3, Differential-Neuts:93.0 %,
   Band:7.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.7 mmol/L,
   Albumin:2.8 g/dL, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR-Elevation of left HD
   Assessment and Plan
   69 yo female with history of nephrolithiasis and now s/p ureteral stent
   replacement and lithotripsy complicated by signfiicant post operative
   tachycardia and fever concerning for sepsis and admitted to ICU for
   further care with post operative fever and sepsis in the setting of
   tachycardia, elevation in WBC count and possible urinary source.  She
   has abdominal exam this morning reassuring for absence of evolution of
   signfiicant diverticulitis or intraperitoneal process.  This leaves
   urinary source of sepsis most likely
   1)SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Vanco/Flagyl/CTX/Cipro
Vanco/Cipro/Flagyl
   -This will allow coverage of C. Diff as possible but no diarrhea seen
   -Will have to monitor abdominal exam as po intake progresses
   -Continue fluid bolus for volume support to get HR down as evidence of
   reasonable Rx of vasodilatory state
   -Will rule our for influenza
   -CT abdomen to look for abscess in the setting of signfiicant
   tachycardia continuing but with abdominal exam reassuring and will
   purseu with po contrast
   -Tylenol PRN
   2)Acute Renal Failure-
   -IVF this morning
bolus fluid this morning
1 liter to look for
   resolution of tachycardia
   -Follow up urine lytes if worsening creatinine seen
   -Is likely pre-renal source of insult
   -Hold Ace-I
   -continue foley
   ICU Care
   Nutrition: PO intake to continue
   Glycemic Control:
   Lines:
   22 Gauge - [**2157-5-16**] 05:16 PM
   20 Gauge - [**2157-5-16**] 08:47 PM
   Prophylaxis:
   DVT: Hep sq/boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2157-05-18 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -micro data- GNR in blood from [**5-16**], started cefepime (curbsided ID, if
   decompensates, give meropenem); uro attdg was concerned that patient
   had +bcx after dose of ceftriaxone; however, ID agreed that cefepime
   offers better GNR/pseudomonal coverage than ceftriaxone and was the
   next best antibiotic to use
   -cefepime (pseudomonas) + vanco (enterococcus), stopped Cipro
   -Flaygl (empiric C dif)
   -CT [**Last Name (un) 42**]/pelv- 1. interval placement of ureteral stent, 2. minimal
   residual nephrolithiasis, 3. no evidence of further diverticulitis, 4.
   left adrenal adenoma
   -CXR- there is some indistinctness of pulmonary vessels that could
   reflect some elevated pulmonary venous pressure. The cardiac silhouette
   appears somewhat more prominent, supporting this diagnosis. There is
   also some increasing opacification at the left base consistent with
   atelectasis and possible small pleural effusion.
   -progressed diet- ADAT
   -wrote for prn nebs for wheezing
   -difficult access for lab draws; consider A-line versus PICC
   -Urine and blood cx from [**5-16**] growing budding yeast, started on
   fluconazole
   -Started on IV fluids for low bicarb and increasing anion gap
   Allergies:
   Aspirin
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Toradol (Injection) (Ketorolac Tromethamine)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Indocin (Oral) (Indomethacin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Zomig (Oral) (Zolmitriptan)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2157-5-16**] 06:30 PM
   Ciprofloxacin - [**2157-5-16**] 08:29 PM
   Cefipime - [**2157-5-17**] 07:00 PM
   Metronidazole - [**2157-5-18**] 04:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-5-18**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2157-5-18**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.5
C (99.5
   HR: 100 (93 - 115) bpm
   BP: 125/66(80) {96/51(62) - 145/80(92)} mmHg
   RR: 27 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  5,037 mL
                                                                    296 mL
   PO:
                                                                  1,090 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,947 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    990 mL
   Urine:
                                                                  2,260 mL
                                                                    890 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,527 mL
                                                                   -695 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.40/26/77/13/-6
   Physical Examination
   General: Awake, alert
   HEENT: MM dry.
   Neck: No elevated JVP, neck supple
   Pulmonary: Lungs with minimal rhales in lower lobes R > L.
   Cardiac: tachycardic, regular, nl S1 S2, no murmurs, rubs or gallops
   appreciated
   Abdomen: Soft, diffusely non-tender to deep palpation.  + bowel sounds.
   Extremities: No edema, 2+ radial, DP pulses b/l.
   Labs / Radiology
   331 K/uL
   8.2 g/dL
   151 mg/dL
   1.7 mg/dL
   13 mEq/L
   3.9 mEq/L
   25 mg/dL
   109 mEq/L
   137 mEq/L
   25.4 %
   26.1 K/uL
        [image002.jpg]
                             [**2157-5-17**]  04:14 AM
                             [**2157-5-17**]  04:58 PM
                             [**2157-5-18**]  05:25 AM
   WBC
   29.9
   26.1
   Hct
   27.2
   25.4
   Plt
   350
   331
   Cr
   1.8
   1.7
   TCO2
   17
   Glucose
   138
   163
   151
   Other labs: PT / PTT / INR:14.6/26.1/1.3, Differential-Neuts:93.0 %,
   Band:7.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   69F with DM2, HTN, recent diverticulitis and nephrolithiasis presents
   with fevers, rigors and tachycardia after lithotripsy and ureteral
   stent placement.
   # Fever: High fever with rigors concerning for bacterial
   infection/bacteremia.  Given recent GU manipulation most likely source
   is urine, especially given positive UA.  Pt has history of recent
   antibiotic tx raising concern for c. diff and now with elevated WBC
   count there is a high concern for C. diff even without diarrhea.  Also
   had treatment for diverticulitis 2 months ago with associated
   microperforation, although non-tender on abd exam with no recent abd
   pain or change in stool.  Did have relatively recent knee tap, but
   without evidence for prior or ongoing infection in the joint.
   -F/u Blood and urine Cx.
   -Empiric antibiotics with vanc (given recent procedure), cipro/ctx for
   double GNR coverage for potential GU source and now flagyl for c. diff
   coverage.
   -Tylenol PRN fevers
   -c. diff toxin
   -r/o flu
   -t/c CT ab to look for evidence of colitis or diverticulitis.
   # Tachycardia: Sinus tach.  Pt most likely dry based on subjective
   thirst, procedurization, febrility and prolonged NPO status prior to
   procedure.
   -PO and IV hydration overnight
   -Check TSH
   -1gram tylenol prn fever
   -tx likely infection as above.
   # ARF: Creatinine has ranged 1.0-2.0 in past 3 months, baseline likely
   1-1.3.  Currently she has decreasing cr post procedure that is
   resolving with fluids giving some creedednce to a pre-renal etiology
   for ARF.
   -Hold lisinopril and HCTZ acutely
   -Agressive IVF/PO hydration
   -Tx infection as above
   -consider repeat GU imaging if persists to ensure no new obstruction in
   setting of instrumentation, although unlikely given stent in place.
   # Hypokalemia: In the setting of fluids.  Patient likely diuresed some
   potassium.  Will replete orally as needed.
   -Check set of pm lytes.
   # Nephrolithiasis: s/p lithotripsy/ureteral stent replacement
   -f/u urology recs
   -foley in place
   # HTN:
   -continue atenolol, hold HCTZ/ACEI as above
   # DM: Hold oral antihyperglycemics
   -diabetic diet
   -HISS
   ICU Care
   Nutrition: PO diet
   Glycemic Control:
   Lines:
   22 Gauge - [**2157-5-16**] 05:16 PM
   20 Gauge - [**2157-5-16**] 08:47 PM
   Prophylaxis:
   DVT: hep SC and pneumoboots
   Stress ulcer: None
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Pending clinical improvment.

2157-05-18 10:17:00 Physician Attending Progress Note
Chief Complaint: Sepsis--Urinary Source
   HPI:
   Vanco/cefepime/flagyl--fluconazole started
   CT--no diverticulitis, stent in position
   BC--GNR and budding yeast
   Worsening AG acidosis seen
   24 Hour Events:
 BLOOD CULTURED - At [**2157-5-17**] 08:00 PM
 STOOL CULTURE - At [**2157-5-18**] 01:35 AM
 FEVER - 102.8
F - [**2157-5-17**] 08:00 AM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Aspirin
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Trilisate (Oral) (Chol [**Doctor First Name **]/Magnesium Salicylate)
   Unknown;
   Naprosyn (Oral) (Naproxen)
   Unknown;
   Toradol (Injection) (Ketorolac Tromethamine)
   Unknown;
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Unknown;
   Indocin (Oral) (Indomethacin)
   Unknown;
   Dilaudid (Injection) (Hydromorphone Hcl/Pf)
   Confusion/Delir
   Zomig (Oral) (Zolmitriptan)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2157-5-16**] 06:30 PM
   Ciprofloxacin - [**2157-5-16**] 08:29 PM
   Cefipime - [**2157-5-17**] 07:00 PM
   Metronidazole - [**2157-5-18**] 04:11 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2157-5-18**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, 100.0
   Flowsheet Data as of  [**2157-5-18**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.5
C (99.5
   HR: 100 (93 - 115) bpm
   BP: 125/66(80) {96/51(62) - 145/80(92)} mmHg
   RR: 27 (19 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
             Total In:
                                                                  5,037 mL
                                                                    319 mL
   PO:
                                                                  1,090 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  3,947 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                  1,150 mL
   Urine:
                                                                  2,260 mL
                                                                  1,050 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,527 mL
                                                                   -831 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.40/26/77/13/-6
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.2 g/dL
   331 K/uL
   151 mg/dL
   1.7 mg/dL
   13 mEq/L
   3.9 mEq/L
   25 mg/dL
   109 mEq/L
   137 mEq/L
   25.4 %
   26.1 K/uL
        [image002.jpg]
                             [**2157-5-17**]  04:14 AM
                             [**2157-5-17**]  04:58 PM
                             [**2157-5-18**]  05:25 AM
   WBC
   29.9
   26.1
   Hct
   27.2
   25.4
   Plt
   350
   331
   Cr
   1.8
   1.7
   TCO2
   17
   Glucose
   138
   163
   151
   Other labs: PT / PTT / INR:14.6/26.1/1.3, Differential-Neuts:93.0 %,
   Band:7.0 %, Lymph:0.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L,
   Albumin:2.8 g/dL, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR--no  new
   Microbiology: BC--follow up cultures negative.
   From [**5-16**]--yeast and GNR's
   Assessment and Plan
   69  yo female admitted with nephrolithiasis and now s/p ureteral stent
   placement and lithotripsy but with concerning evolution of significant
   bacteremia and fungemia with likely urinary source for both.  We have
   maintained reasonable vigilance in terms of evaluation of further
   possible sources with abdominal CT which did not show focal collection
   of GI source of polymicrobial infection.
   1)Sepsis-Reasonable response to fluids to date, no pressors required
   -Vanco/Cefepime/Flagyl to continue
   -IVF bolus as needed
   -Consider D/C of flagyl with C. Diff negative
   -Will pursue micafungin in the setting of yeast seen in blood
   -Will follow up sensitivities
   2)Acidosis-She has a component of Anion Gap and Non-Anion Gap acidisos-
   -This may be related in large part to renal failure, diarrhea and NS
   given which all may contribute
   -Will check Lactate and ketones to confirm the above.
   3)Acute Renal Failure-
   -Renal dose meds
   -continue with adequate IVf support
   4)Neprholithiasis-
   -Stent in place
   ICU Care
   Nutrition: Regular Diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2157-5-16**] 05:16 PM
   20 Gauge - [**2157-5-16**] 08:47 PM
Needs better access, has fungemia,
   however.  This would leave us uninterested in putting central access.
   Will minimize blood draws and look to PICC tomorrow.
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PO diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes